US07291741B2
Benzthiazolylsulfenyl chloride was prepared from 700 kg of 98% commercially available Altax (2.063 kmol) in 8750 1 of a solvent and 150 kg chlorine.

reactant | Altax | 2.063 kmol | C1=CC=C2C(=C1)N=C(S2)SSC3=NC4=CC=CC=C4S3 | C14H8N2S4
reactant | chlorine | 150 kg | ClCl | Cl2
product | Benzthiazolylsulfenyl chloride | S1C(=NC2=C1C=CC=C2)SCl | C7H4ClNS2
